US04874775
N-(4-methylthiophenyl)-N-(pyridin-3-ylmethyl)chloromethanesulfonamide
A 3.4 g. portion of 3-(4-methylthiophenylaminomethyl)pyridine was dissolved in 25 ml. of dichloromethane, and 4.1 g. of potassium carbonate and 4.5 g. of chloromethanesulfonyl chloride were added. The mixture was stirred at ambient temperature for 4 days, and then 20 ml. of aqueous sodium bicarbonate was added. The mixture was extracted with 15 ml. of dichloromethane, and the organic phase was washed with aqueous sodium bicarbonate, dried and evaporated to an oil. The oil was dissolved in dichloromethane and chromatographed on silica gel, eluting with dichloromethane. Combination of the product-containing fractions gave 1.6 g. of the desired product.

reactant | 3-(4-methylthiophenylaminomethyl)pyridine | CSC1=CC=C(C=C1)NCC=1C=NC=CC1 | C13H14N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethanesulfonyl chloride | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-methylthiophenyl)-N-(pyridin-3-ylmethyl)chloromethanesulfonamide | CSC1=CC=C(C=C1)N(S(=O)(=O)CCl)CC=1C=NC=CC1 | C14H15ClN2O2S2
